US09120747B2
((R)-2-Biphenyl-4-yl-1-formylethyl)carbamic Acid t-Butyl Ester
[(R)-2-Biphenyl-4-yl-1-(methoxymethylcarbamoyl)ethyl]carbamic acid t-butyl ester (7.5 g, 19.5 mmol, 1.0 eq.) was combined with THF (distilled) (100 mL) under nitrogen. Lithium aluminum hydride (750 mg, 19.8 mmol, 1.0 eq.) was added to the resulting stirred solution in several batches at −5˜0° C. over a period of 30 minutes. The resulting solution was stirred for 30 minutes at −5-0° C. The reaction was then quenched by the addition of a solution of KHSO4 (6.6 g) in water (35 mL). The resulting solution was combined with a 1N HCl (75 mL) solution, and stirred for five minutes. EtOAc (100 mL) was added and the resulting solution was extracted with EtOAc (3×100 mL) and the organic layers were combined to yield the title compound (6.3 g) as a yellow oil.

reactant | [(R)-2-Biphenyl-4-yl-1-(methoxymethylcarbamoyl)ethyl]carbamic acid t-butyl ester | 19.5 mmol, 7.5 g, 1.0 eq. | C(C)(C)(C)OC(N[C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)C(NCOC)=O)=O | C22H28N2O4
reactant | Lithium aluminum hydride | 19.8 mmol, 750 mg, 1.0 eq. | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | ((R)-2-Biphenyl-4-yl-1-formylethyl)carbamic Acid t-Butyl Ester | 6.3 g | C(C)(C)(C)OC(N[C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)C=O)=O | C20H23NO3
